US05807868
Cyclobutanecarbonyl chloride (7 g) was added dropwise to a solution of 2-(4-methoxy-3-methylphenyl)ethylamine (11.36 g) and triethylamine (13 ml) in tetrahydrofuran (150 ml) and the resulting suspension stirred for 16 hours. The mixture was poured into water (150 ml), acidified with dilute hydrochloric acid and extracted with ethyl acetate (4×50 ml). The combined organic extracts were washed with brine then dried over magnesium sulphate and the solvent removed in vacuo. The residue was washed with petroleum ether (bp 40°-60° C.) to give crude N-[2-(4-methoxy-3-methylphenyl)ethyl]cyclobutanecarboxamide (12 g). A sample recrystallised from acetonitrile had mp 103°-104° C.

reactant | Cyclobutanecarbonyl chloride | 7 g | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | 2-(4-methoxy-3-methylphenyl)ethylamine | 11.36 g | COC1=C(C=C(C=C1)CCN)C | C10H15NO
reactant | triethylamine | 13 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | 150 ml | O | H2O
product | N-[2-(4-methoxy-3-methylphenyl)ethyl]cyclobutanecarboxamide | 12 g | COC1=C(C=C(C=C1)CCNC(=O)C1CCC1)C | C15H21NO2
